US08221905B2
The 100 mL round bottom flask, equipped with magnetic stirrer and refluxed condenser, was charged with 8-chlorobenzofuro[3,2-b]pyridine (2.04 g, 10 mmol), 3-(9-carbazolyl)carbazole (3.32 g, 10 mmol), Pd(OAc)2 (450 mg, 20 mol %), P(t-Bu)3 (10 mL of 1M solution in toluene, 10 mmol), potassium tert-buthoxide (1.92 g, 1.5 eq) and 150 ml of xylene. The flask was filled with nitrogen, and the reaction mixture was heated to reflux and stirred under nitrogen atmosphere for 24 hours. Then reaction was cooled down to room temperature, filtered through silica plug and evaporated. The residue was subjected to column chromatography on silica gel, eluent hexane/ethyl acetate mixture 9:1, providing 2.5 g of 8-(9H-3,9′-bicarbazol-9-yl)benzofuro[3,2-b]pyridine as white solid. The structure was confirmed by NMR and MS spectroscopy.

reactant | 8-chlorobenzofuro[3,2-b]pyridine | 10 mmol, 2.04 g | ClC=1C=CC2=C(C1)C1=NC=CC=C1O2 | C11H6ClNO
reactant | 3-(9-carbazolyl)carbazole | 10 mmol, 3.32 g | C1=CC=CC=2C3=CC=CC=C3N(C12)C=1C=CC=2NC3=CC=CC=C3C2C1 | C24H16N2
reactant | P(t-Bu)3 | 10 mmol, 1M, 10 mL | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
reactant | potassium | [K] | K
catalyst | Pd(OAc)2 | 450 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | xylene | 150 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 8-(9H-3,9′-bicarbazol-9-yl)benzofuro[3,2-b]pyridine | 2.5 g | C1=CC(=CC=2C3=CC=CC=C3N(C12)C=1C=CC2=C(C1)C1=NC=CC=C1O2)N2C1=CC=CC=C1C=1C=CC=CC21 | C35H21N3O
